US04568680
2-(2-Methoxy-4-methylsulfinyl-phenyl)-5H-imidazo[4,5-c]pyridin-4-one
0.3 g of 2-(2-methoxy-4-methylmercapto-phenyl)-5H-imidazo[4,5-c]pyridin-4-one were suspended in 10 ml of 50% acetic acid, and 0.2 g of anhydrous sodium acetate were added thereto. 0.15 g of bromine, dissolved in 2 ml of glacial acetic acid, was added dropwise to the mixture, while stirring. After the reaction had ended the mixture was poured over ice, and the precipitate thus obtained was recrystallized from ethanol. Melting point: 267°-272° C. (decomposition).

reactant | 2-(2-methoxy-4-methylmercapto-phenyl)-5H-imidazo[4,5-c]pyridin-4-one | 0.3 g | COC1=C(C=CC(=C1)SC)C1=NC=2C(C(NCC2)=O)=N1 | C14H13N3O2S
reactant | sodium acetate | 0.2 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.15 g | BrBr | Br2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 2-(2-Methoxy-4-methylsulfinyl-phenyl)-5H-imidazo[4,5-c]pyridin-4-one | COC1=C(C=CC(=C1)S(=O)C)C1=NC=2C(C(NCC2)=O)=N1 | C14H13N3O3S
